US04692464
1(a) (1S,5R,6S,7R)-6-Benzyloxymethyl-7-(tetrahydropyran-2-yloxy)-2-oxabicyclo[3,3,0]octan-3-one
A solution of 14.5 g. of (1S,5R,6S,7R)-6-benzyloxymethyl-7-hydroxy-2-oxabicyclo[3,3,0]octan-3-one, 6 ml. of dihydropyran, and 40 mg. of p-toluenesulfonic acid in 300 ml. of absolute methylene chloride as agitated for one hour at 5°. Then the solution is diluted with ether, shaken with 4% sodium bicarbonate solution, washed neutral with water, dried over magnesium sulfate, and evaporated under vacuum. Yield: 21 g. of the tetrahydropyranyl ether as a colorless oil.

reactant | (1S,5R,6S,7R)-6-benzyloxymethyl-7-hydroxy-2-oxabicyclo[3,3,0]octan-3-one | C(C1=CC=CC=C1)OC[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1O)=O | C15H18O4
reactant | dihydropyran | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (1S,5R,6S,7R)-6-Benzyloxymethyl-7-(tetrahydropyran-2-yloxy)-2-oxabicyclo[3,3,0]octan-3-one | C(C1=CC=CC=C1)OC[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC1OCCCC1)=O | C20H26O5
